US09315458B2
To a solution of methyl 5-(4-(difluoromethoxy)benzyl)-2-hydroxy-3,4-dimethylbenzoate (0.60 g) in DMF (12.0 mL) was added sodium hydride (0.08 g) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To this reaction mixture was added N-phenylbis(trifluoromethanesulfonimide) (0.77 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added 1N hydrochloric acid under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained crude methyl 5-[4-(difluoromethoxy)benzyl]-3,4-dimethyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate was used in the next step without an additional purification.

reactant | methyl 5-(4-(difluoromethoxy)benzyl)-2-hydroxy-3,4-dimethylbenzoate | 0.60 g | FC(OC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)O)C)C)C=C1)F | C18H18F2O4
reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | N-phenylbis(trifluoromethanesulfonimide) | 0.77 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 12.0 mL | CN(C)C=O | C3H7NO
product | methyl 5-[4-(difluoromethoxy)benzyl]-3,4-dimethyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | FC(OC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C)C)C=C1)F | C19H17F5O6S
